US07846960B2
{4-[({4-[2-(2,6-Dichloro-phenyl)-4-isopropyl-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-methyl-amino)-methyl]-phenyl}-acetic Acid
To an ambient temperature solution of {4-[({4-[2-(2,6-Dichloro-phenyl)-4-isopropyl-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-methyl-amino)-methyl]-phenyl}-acetic acid methyl ester (81 mg, 0.143 mmol) in dioxane (2 mL) is added a solution of lithium hydroxide (215 μL, 0.429 mmol, 2.0N in water). The reaction mixture is heated to 50° C. The reaction is concentrated and the residue is partitioned between Et2O and water. The aqueous layer pH is adjusted to approximately 7 and the aqueous layer is extracted with a second portion of Et2O. The combined organic layers are washed with water, dried (MgSO4), filtered, and concentrated to yield the title compound (75 mg, 95%). ES/MS m/e (35Cl) 552.0 (M+1).

reactant | {4-[({4-[2-(2,6-Dichloro-phenyl)-4-isopropyl-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-methyl-amino)-methyl]-phenyl}-acetic acid methyl ester | 0.143 mmol, 81 mg | COC(CC1=CC=C(C=C1)CN(C)C1=C(C=C(C=C1)OCC=1N(N=CC1C(C)C)C1=C(C=CC=C1Cl)Cl)C)=O | C31H33Cl2N3O3
reactant | lithium hydroxide | 0.429 mmol, 2.0N, 215 μL | [OH-].[Li+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | {4-[({4-[2-(2,6-Dichloro-phenyl)-4-isopropyl-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-methyl-amino)-methyl]-phenyl}-acetic Acid | 75 mg, 95% | ClC1=C(C(=CC=C1)Cl)N1N=CC(=C1COC1=CC(=C(C=C1)N(C)CC1=CC=C(C=C1)CC(=O)O)C)C(C)C | C30H31Cl2N3O3
